* PSpice Model Editor - Version 17.2-2016
*$
* TPS7A20_ADJ
*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS7A20_ADJ
* Date: 21JAN2020
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 17.2-2016 S050
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SBVS338 –AUGUST 2019
*
*            
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
* 
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Start-up time
*      b. PSSR
*      c. Enable/VIN shutdown
*      d. Load and line transients
*      e. Internal current limit
*      f. Model supports inverting topology.
*      
*      
* 2. Temperature effects & Ground/quiescent current have not been modeled.
* 
*****************************************************************************
*$
.SUBCKT TPS7A20_ADJ_TRANS VIN GND EN N_C VOUT
V_V2         N15528889 VOUT 0Vdc
C_C6         GND N15505691  20n  
X_F1    VZZ N15505639 N15505691 VYY TPS7A20_ADJ_F1 
V_V5         VIN N15505717 0Vdc
E_E14         N15738584 GND VALUE { V(N15738829, 0) }
C_U1_C3         GND N15505751  1n  
X_U1_U2         VIN_PRE U1_N15850660 U1_N158505703 U1_VIN_OK COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U1_V6         U1_N15496735 0 0.92V
V_U1_V3         U1_N158505703 0 0.025
E_U1_E2         U1_DROP 0 TABLE { V(ISENSE, 0) } 
+ ( (0,62.7m)(1m,71.2m)(6m,74.1m)(25m,75.046m)(250m,88m)(300m,101.41m) )
E_U1_ABM8         EN_OK 0 VALUE { IF(V(U1_N15545135) >=0.5,1,0)    }
X_U1_U4         U1_N15545135 U1_EN_PRE d_d PARAMS:
V_U1_V4         U1_N15850660 0 1.325
R_U1_R3         U1_N15850670 U1_N15488381  {3.333e5*SQRT(TTRN)} TC=0,0 
C_U1_C1         0 U1_N15488381  {1e-6*SQRT(TTRN)}  
X_U1_U1         EN_INT U1_N15496735 U1_N154966513 U1_EN_PRE COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U1_R4         U1_N15488775 U1_N15488397  10 TC=0,0 
E_U1_E4         U1_N154887931 GND VALUE { V(U1_N15846152, 0) }
V_U1_V5         U1_N154966513 0 0.025
R_U1_R2         GND U1_N15488397  1G  
C_U1_C2         0 U1_N15488397  1n  
E_U1_ABM6         U1_N15850670 0 VALUE { IF(V(U1_VIN_OK)> 0.6 & V(EN_OK) > 0.6,
+  {VREF}, 0)    }
E_U1_ABM5         U1_N15846152 0 VALUE { MIN(V(U1_N15488397),  
+ MAX(V(VIN_PRE) - V(U1_DROP), 0))   }
R_U1_R5         U1_N154887931 N15505751  10 TC=0,0 
R_U1_R9         U1_EN_PRE U1_N15545135  {30u/(0.7*1n)} TC=0,0 
E_U1_ABM4         U1_N15488775 0 VALUE { V(U1_N15488381)  
+ * (ABS(V(N15506031)) + 1e-6)  
+ / (ABS(V(V_FBK)) + 1e-6)  }
C_U1_C5         0 U1_N15545135  1n  TC=0,0 
R_U1_R1         GND U1_N15488381  1G  
E_E6         VIN_PRE 0 VALUE { V(VIN, GND) }
R_R15         GND EN  1e6 TC=0,0 
X_S1    LOAD_DIS GND N15518026 GND TPS7A20_ADJ_S1 
V_V4         N15505647 VOUT_INT 0Vdc
E_E16         N15506031 0 VALUE { V(VOUT_INT, GND) }
V_V3         N15528889 N15518026 0Vdc
R_R14         0 N_C  100MEG TC=0,0 
R_R1         VXX N15505691  {RINP}  
X_H1    N15505639 N15505647 ISENSE 0 TPS7A20_ADJ_H1 
R_R13         LOAD_DIS N157842371  1 TC=0,0 
X_S4    EN_OK 0 N15505717 N15505691 TPS7A20_ADJ_S4 
E_ABM1         N15738829 0 VALUE { MIN(V(N15735226), (V(Vzz_INT)+(ILIM*ROUT))) 
+    }
R_R2         N15505751 VXX  {PSRR*RINP}  
C_C8         0 LOAD_DIS  1n  TC=0,0 
E_E5         EN_INT 0 VALUE { V(EN, GND) }
R_R3         GND FB  {Rbottom}  
C_C1         VXX N15505691  {1/(6.28*RINP*POLE)}  
E_ABM3         N157842371 0 VALUE { IF(V(EN_OK)<0.5,1,0)    }
E_E13         N15735226 0 VALUE { V(VXX, GND) }
R_R6         N15738584 VYY  1 TC=0,0 
R_R4         FB VOUT_INT  {RTOP}  
X_S2    LOAD_DIS 0 N15528889 VOUT_INT TPS7A20_ADJ_S2 
C_C2         VXX N15505751  {1/(6.28*PSRR*RINP*ZERO*1)}  
R_R10         0 N_C  100MEG TC=0,0 
R_R5         VZZ VYY  {ROUT}  
E_E11         V_FBK 0 VALUE { V(FB, GND) }
C_C3         GND VYY  1n  
E_E15         VZZ_INT 0 VALUE { V(VZZ, GND) }
.PARAM  rtop=3e6 psrr=178u rbottom={(3e6)/((V_out/0.8)-1)} ilim=520m ven=0.92 pole=10k
+  zero=1Meg rinp=1e12 ttrn=750u rout=57.7m vref=0.8
.ENDS
*$
.subckt TPS7A20_ADJ_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends TPS7A20_ADJ_F1
*$
.subckt TPS7A20_ADJ_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=230 Voff=0.0V Von=1m
.ends TPS7A20_ADJ_S1
*$
.subckt TPS7A20_ADJ_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends TPS7A20_ADJ_H1
*$
.subckt TPS7A20_ADJ_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=100 Ron=80 Voff=0.4 Von=0.5
.ends TPS7A20_ADJ_S4
*$
.subckt TPS7A20_ADJ_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e-6 Ron=1E6 Voff=0 Von=1m
.ends TPS7A20_ADJ_S2
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends d_d
*$
